US04634704
A mixture of 1.6 parts of 1H-indole-2-carboxylic acid, 3.67 parts of N-[1-(2-aminoethyl)-4-piperidinyl]-1-[(4-fluorophenyl)methyl]-1H-benzimidazol-2-amine, 2.1 parts of N,N'-methanetetraylbis[cyclohexanamine] and 195 parts of dichloromethane was stirred over weekend at room temperature. The reaction mixture was filtered over Hyflo and the filtrate was evaporated. The residue was purified by column chromatography over silica gel using a mixture of trichloromethane and methanol (95:5 by volume) as eluent. The pure fractions were collected and the eluent was evaporated. The residue was crystallized from acetonitrile, yielding 1 parts (19.5%) of N-[2-[4-[[1-[(4-fluorophenyl)methyl]-1H-benzimidazol-2-yl]amino]-1-piperidinyl]ethyl]-1H-indole-2-carboxamide; mp. 232.1° C. (compound 76).

reactant | 1H-indole-2-carboxylic acid | N1C(=CC2=CC=CC=C12)C(=O)O | C9H7NO2
reactant | N-[1-(2-aminoethyl)-4-piperidinyl]-1-[(4-fluorophenyl)methyl]-1H-benzimidazol-2-amine | NCCN1CCC(CC1)NC1=NC2=C(N1CC1=CC=C(C=C1)F)C=CC=C2 | C21H26FN5
solvent | dichloromethane | ClCCl | CH2Cl2
product | N-[2-[4-[[1-[(4-fluorophenyl)methyl]-1H-benzimidazol-2-yl]amino]-1-piperidinyl]ethyl]-1H-indole-2-carboxamide | 19.5% | FC1=CC=C(C=C1)CN1C(=NC2=C1C=CC=C2)NC2CCN(CC2)CCNC(=O)C=2NC1=CC=CC=C1C2 | C30H31FN6O
